US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene (250 mg, 1.10 mmol), 4-vinyl-pyridine (347 mg, 3.30 mmol), tetrabutyl ammonium bromide (355 mg, 1.10 mmol) were charged in a screw cap bottle and a 60% solution of sodium hydroxide (5 mL) was added and heated to 100° C. for 12 h. The reaction was monitored by TLC and LCMS. The reaction mixture was diluted with 25 mL of water and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with water (25 mL), dried over anhydrous sodium sulfate and concentrated. The resultant crude product was purified by reverse phase chromatography to obtain 85 mg of 9-methyl-6-(2-pyridin-4-yl-ethyl)-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene as the formate salt (the product was a racemate which was purified by chiral prep HPLC to obtain product II-244a & product II-244b as the freebase). 1H NMR (CDCl3, freebase) δ (ppm): 8.45 (d, 2H), 8.17 (s, 1H), 7.56 (s, 1H), 6.91 (d, 2H), 4.5 (m, 1H),4.42 (t, 1H), 4.35 (m, 1H), 3.26 (m, 2H), 3.16 (m, 5H), 2.81 (m, 1H), 2.45 (m, 1H), 2.41 (s, 3H), 2.1 (m, 2H), 1.9 (m, 1H). Separation by chiral HPLC provided enantiomers II-244a-b.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene | 1.10 mmol, 250 mg | CC1=CC=2C=3C4N(CCC3NC2N=C1)CCC4 | C14H17N3
reactant | 4-vinyl-pyridine | 3.30 mmol, 347 mg | C(=C)C1=CC=NC=C1 | C7H7N
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
catalyst | tetrabutyl ammonium bromide | 1.10 mmol, 355 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 25 mL | O | H2O
product | 9-methyl-6-(2-pyridin-4-yl-ethyl)-2,3,4,5,6,10c-hexahydro-1H-3a,6,7-triaza-cyclopenta[c]fluorene | 85 mg | CC1=CC=2C=3C4N(CCC3N(C2N=C1)CCC1=CC=NC=C1)CCC4 | C21H24N4
